US08283353B2
4′-[(2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile
A solution of 5-methyl-4H-1,2,4-triazol-3-amine (1.7 g) and ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate (7.1 g) in 1,2,4-trichlorobenzene (70 mL) was stirred at 190° C. for 6 hr. After evaporation of the solvent under reduced pressure, ethyl acetate was added to the obtained residue. The precipitated solid was collected by filtration to give the title compound as a colorless solid (3.6 g, 44%).

reactant | 5-methyl-4H-1,2,4-triazol-3-amine | 1.7 g | CC=1NC(=NN1)N | C3H6N4
reactant | ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate | 7.1 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OCC)C(CCC)=O | C22H23NO3
solvent | 1,2,4-trichlorobenzene | 70 mL | ClC1=C(C=C(C=C1)Cl)Cl | C6H3Cl3
product | 4′-[(2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 3.6 g, 44% | CC1=NN2C(NC(C(=C2CCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)=O)=N1 | C23H21N5O
